US07910595B2
(RS)-2-Formamido-2-phenylpropanoic acid
(RS)-2-amino-2-phenylpropanoic acid (20 g, 0.12 mol) in 88% formic acid (220 mL) was reacted with acetic anhydride (100 mL) at such rate as to keep the internal temperature at 60-65° C. After the final addition, the reaction was stirred until the internal temperature dropped to 35° C., and then concentrated. The solid residue was dried by azeotroping with toluene. The solid residue was dissolved in hot ethanol (70 mL), treated with active charcoal (0.5 g), and filtered. Hot water (210 mL) was added with stirring to the hot filtrate. The mixture was cooled in the refrigerator for 3 days. The resulting crystals was collected by filtration, washed with cold EtOH/water (1:3), and dried at 60° C. for 4 hours to give the title compound as colorless crystal. (17.8 g, 76%).

reactant | (RS)-2-amino-2-phenylpropanoic acid | 0.12 mol, 20 g | NC(C(=O)O)(C)C1=CC=CC=C1 | C9H11NO2
reactant | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | formic acid | 220 mL | C(=O)O | CH2O2
product | (RS)-2-Formamido-2-phenylpropanoic acid | C(=O)NC(C(=O)O)(C)C1=CC=CC=C1 | C10H11NO3
